US06506738B1
The general coupling method used for compound 63a was applied using 4-benzyloxybenzyl chloride and BTPP in tetrahydrofuran to give the product benzyl ether. The benzyl ether (600 mg, 1.05 mmol) and 10% palladium hydroxide on carbon (160 mg) in 2:1 methanol/tetrahydrofuran (50 mL / 25 mL) was agitated under hydrogen at 55 psi for 48 hours. The reaction mixture was filtered through a pad of Celite and then subjected to column chromatography (2:1 EtOAc/CH2Cl2) to give compound 64 as a white solid (262 mg, 52% yield).

reactant | 4-benzyloxybenzyl chloride | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
reactant | BTPP | CC(C)(C)N=P(N1CCCC1)(N2CCCC2)N3CCCC3 | C16H33N4P
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | benzyl ether | C(C1=CC=CC=C1)OCC1=CC=CC=C1 | C14H14O
